US08114902B2
(20-3) Synthesis of N-[2,2-dimethyl-5-(2-{4-[5-(4-methylbenzoyl)-2-thienyl]phenyl}ethyl)-1,3-dioxan-5-yl]acetamide
To a solution of N-{5-[2-(4-{5-[hydroxy(4-methylphenyl)methyl]-2-thienyl}phenyl)ethyl]-2,2-dimethyl-1,3-dioxan-5-yl}acetamide (0.35 g) in methylene chloride (5 mL) were added tri(p-tolyl)bismuth dichloride (393 mg) and 1,8-diazabicyclo[5.4.0]undec-7-ene (108 mg) at room temperature, and the mixture was stirred at the same temperature for 2 hr. Chloroform was added to the reaction mixture, and the mixture was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound (0.22 g) as brown crystals.

reactant | N-{5-[2-(4-{5-[hydroxy(4-methylphenyl)methyl]-2-thienyl}phenyl)ethyl]-2,2-dimethyl-1,3-dioxan-5-yl}acetamide | 0.35 g | OC(C1=CC=C(S1)C1=CC=C(C=C1)CCC1(COC(OC1)(C)C)NC(C)=O)C1=CC=C(C=C1)C | C28H33NO4S
reactant | tri(p-tolyl)bismuth dichloride | 393 mg | C1(=CC=C(C=C1)[Bi](C1=CC=C(C=C1)C)(C1=CC=C(C=C1)C)(Cl)Cl)C
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 108 mg | N12CCCCCC2=NCCC1 | C9H16N2
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | N-[2,2-dimethyl-5-(2-{4-[5-(4-methylbenzoyl)-2-thienyl]phenyl}ethyl)-1,3-dioxan-5-yl]acetamide | 0.22 g | CC1(OCC(CO1)(CCC1=CC=C(C=C1)C=1SC(=CC1)C(C1=CC=C(C=C1)C)=O)NC(C)=O)C | C28H31NO4S
